US07423052B2
Description 88 (RS)-2-[2-(3-Cyano-phenyl)-2-oxo-ethoxycarbonylmethyl]-piperidine-1-carboxylic tert butyl ester
The title compound (1.51 g) was prepared from (RS)-2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (1.15 g) and 2-bromo-3′-cyanoacetophenone (1.06 g) according to the method of description 36.

reactant | (RS)-2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 1.15 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | 2-bromo-3′-cyanoacetophenone | 1.06 g | BrCC(=O)C1=CC(=CC=C1)C#N | C9H6BrNO
product | (RS)-2-[2-(3-Cyano-phenyl)-2-oxo-ethoxycarbonylmethyl]-piperidine-1-carboxylic tert butyl ester | 1.51 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)OCC(=O)C1=CC(=CC=C1)C#N | C21H26N2O5
